US06759421B2
Step A: (2-Nitro-1-naphthyl)acetonitrile
Prepare a solution of 53.5 g (0.477 mol) of potassium tert.-butanolate in 400 ml of dimethylformamide. Cool the resulting solution to −10° C. and add thereto, over the course of about 1 hour, a solution of 40 g of 4-chlorophenoxyacetonitrile (0.24 mol) and 37 g of 2-nitronaphthalene (0.213 mol) in 200 ml of dimethylformamide. After 2 hours at −5° C., pour the mixture into 4 liters of water containing 1 liter of concentrated hydrochloric acid and extract the aqueous phase with 3×500 ml of dichloromethane. Wash the organic phase with 300 ml of water, dry it over magnesium sulphate, filter and then evaporate off the solvent.

reactant | potassium tert.-butanolate | 0.477 mol, 53.5 g | C(C)(C)(C)[O-].[K+]
reactant | 4-chlorophenoxyacetonitrile | 0.24 mol, 40 g | ClC1=CC=C(OCC#N)C=C1 | C8H6ClNO
reactant | 2-nitronaphthalene | 0.213 mol, 37 g | [N+](=O)([O-])C1=CC2=CC=CC=C2C=C1 | C10H7NO2
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | water | 4 liters | O | H2O
product | (2-Nitro-1-naphthyl)acetonitrile | [N+](=O)([O-])C1=C(C2=CC=CC=C2C=C1)CC#N | C12H8N2O2
